### PR TITLE
Another attempt at deprecation of `inspect`

### PR DESCRIPTION
**Pull request by jamesmckinna**
REVISED: Supersedes #1630 . 

Deprecations added to
- [x] `Relation.Binary.PropositionalEquality` 
- [ ] `Relation.Binary.HeterogeneousEquality` (suggest that this be the topic of a separate PR: as well as having its own versions of `Reveal` and `inspect`, it uses the now-deprecated [equational reasoning combinators from before v1.3](https://github.com/agda/agda-stdlib/blob/master/CHANGELOG/v1.3.md#changes-to-how-equational-reasoning-is-implemented)) 

as well as everything else now under #1630 (which this PR updates and extends) towards eliminating uses of `inspect` in favour of `with ... in ...` (issue agda/agda-stdlib#1580)

FIXED by moving to Agda-2.6.3

UPDATED:
- [ ] `README.WithIn` in place of `README.Inspect` NOW: reverted this change; deprecated latter module;
- [x] two additional inversion properties concerning `splitAt` in `Data.Fin.Properties` 

~~UPDATED: for the cost of two new inversion lemmas, the old proof is eliminable in favour of... something no more comprehensible...; `combine` is defined by `with` on `splitAt`, so I took the proofs back to that decomposition... another 'view of a function' deployment, albeit in disguise...~~

~~Otherwise, a frictionless migration.~~

~~EDITED: No deprecations as yet; no `CHANGELOG`. Hence: "towards"...~~

~~Suggest cherry-picking [`57b90e8912d8f43462ac059972ea31cbf8a34fb4`](https://github.com/agda/agda-stdlib/pull/1930/commits/57b90e8912d8f43462ac059972ea31cbf8a34fb4) as below~~

~~Hmm that won't quite cut it, unfortunately. I'll try to produce a cleaned up version in due course. Perhaps also with an updated `README.Inspect`... perhaps better `README.WithIn`?~~

### CODE REVIEW

**Comment by jamesmckinna** [comment]
No deprecations as yet; no `CHANGELOG`. Hence: "towards"...

**Comment by jamesmckinna** [comment]
Apologies for forgetting about #1630...

**Comment by JacquesCarette** [comment]
Very nice! Just make sure not to leave `MWE.agda` in the PR when it's ready to be reviewed.

**Comment by jamesmckinna** [comment]
Jacques, many thanks again. Indeed, my suggestion to cherry-pick the PR would avoid `MWE`, but yes, I'll remove it as and when necessary...

**Comment by jamesmckinna** [comment]
Commit [`57b90e8912d8f43462ac059972ea31cbf8a34fb4`](https://github.com/agda/agda-stdlib/pull/1930/commits/57b90e8912d8f43462ac059972ea31cbf8a34fb4) adds two new inversion lemmas to `Data.Fin.Properties` and to `CHANGELOG`, so would make a candidate for cherry-picking on top of @MatthewDaggitt 's existing #1630. Subsequent commist exhibit two version of the offending lemma `combine-surjective`, on adapted to use the 'old' proof, but using `with ... in ...`, the other, `combine-surjectiveNEW` using the two new inversions.

**Comment by jamesmckinna** [comment]
Tests fail because the CI is using 2.6.2...

**Comment by gallais** [comment]
I have updated the CI to use 2.6.2.2

**Comment by jamesmckinna** [comment]
👍

**Comment by jamesmckinna** [comment]
@gallais What happened here? 
Seemingly lots of spurious commits?

**Comment by gallais** [comment]
#1932 created a merge conflict because we both modified haskell-ci.
I merged `master` back into your `inspect` branch to resolve the conflict.
There should not be a lot spurious commits, only one clean merge one
(there may have been an issue with the way github's online interface displayed
it to you; it looks fine on my end).

**Comment by jamesmckinna** [comment]
👍

File: .github/workflows/haskell-ci.yml [hunk 1]
```diff
@@ -25,7 +25,7 @@ on:
 jobs:
   linux:
     name: Haskell-CI - Linux - ${{ matrix.compiler }}
-    runs-on: ubuntu-18.04
+    runs-on: ubuntu-latest
```
Comment (andreasabel) [inline .github/workflows/haskell-ci.yml]: @gallais: If you want to modify this workflow, please do it via the patch https://github.com/agda/agda-stdlib/blob/46daf81a51a6e13a0cae107b3e51790f88da7c5c/.github/haskell-ci.patch as described in https://github.com/agda/agda-stdlib/blob/46daf81a51a6e13a0cae107b3e51790f88da7c5c/HACKING.md#updating-the-haskell-ci-workflow . Also, before patching, regenerate it with the latest `haskell-ci` first which in this particular case would have updated the Ubuntu version.

**Comment by andreasabel** [comment]
> I'd still appreciate a hint as to why it popped up now

I haven't seen this before, maybe because I do not use https access but the git@github.com access method...

**Comment by jamesmckinna** [comment]
@gallais Not sure how to fix the merge conflicts arising from your commits re `ci-ubuntu.yml`, or mine regarding `README.Inspect`. Any ideas?

**Comment by andreasabel** [comment]
> @gallais Not sure how to fix the merge conflicts arising from your commits re `ci-ubuntu.yml`, or mine regarding `README.Inspect`. Any ideas?

@jamesmckinna I merged `master` into your PR, fixing the conflicts in `ci-ubuntu.yml` in favour of `master`.  Other conflicts were not reported.  Is the result to your satisfaction?

On the how?:  I think from your working directory, this command sequence would have done the job:
```
git checkout master
git pull
git checkout inspect
git merge master
### fix and stage the conflicts
git commit ...
git push
```
(There is a workflow without switching to `master` first, but I usually keep it simple.)

**Review by gallais — APPROVED** [review]

File: src/Data/Fin/Properties.agda [hunk 2]
```diff
@@ -679,13 +689,20 @@ combine-injective i j k l cᵢⱼ≡cₖₗ =
...
-combine-surjective {m} {n} i with remQuot {m} n i | P.inspect (remQuot {m} n) i
-... | j , k | P.[ eq ] = j , k , (begin
+combine-surjective {m} {n} i with remQuot {m} n i in eq
+... | j , k = j , k , (begin
   combine j k                       ≡˘⟨ uncurry (cong₂ combine) (,-injective eq) ⟩
   uncurry combine (remQuot {m} n i) ≡⟨ combine-remQuot {m} n i ⟩
   i                                 ∎)
   where open ≡-Reasoning
 
+combine-surjectiveNEW : ∀ (i : Fin (m ℕ.* n)) → ∃₂ λ j k → combine {m} {n} j k ≡ i
```
[the remark this answers is not in the document]
Comment (jamesmckinna) [reply src/Data/Fin/Properties.agda:699]: See my [earlier comment above](https://github.com/agda/agda-stdlib/pull/1930#issuecomment-1438534264): I provided two ways to prove the `combine-surjective` property, and had been waiting on a review judgment call as to which proof might be preferable

File: CHANGELOG.md [hunk 3]
```diff
@@ -1,7 +1,7 @@
 Version 2.0-dev
 ===============
 
-The library has been tested using Agda 2.6.2.
+The library has been tested using Agda 2.6.2.2.
```
Comment (MatthewDaggitt) [inline CHANGELOG.md:4]: Should be `2.6.3` no?

File: CHANGELOG.md [hunk 4]
```diff
@@ -1298,6 +1298,15 @@ Deprecated names
 * This fixes the fact we had picked the wrong name originally. The erased modality
   corresponds to @0 whereas the irrelevance one corresponds to `.`.
 
+### Deprecated `Relation.Binary.PropositionalEquality.inspect`
+    in favour of `with ... in ...` syntax (issue #1580; PRs #1630, #1930)
+
+* In `Relation.Binary.PropositionalEquality`
+  both the record type `Reveal_·_is_`
+  and its principal mode of use, `inspect`,
+  have been deprecated in favour of the new `with ... in ...` syntax.
```
Comment (MatthewDaggitt) [inline CHANGELOG.md:1307]: It would be good to have a link to the Agda docs here, and maybe a very simple example?

File: README.agda [hunk 5]
```diff
@@ -12,13 +12,14 @@ module README where
...
--- Noam Zeilberger and other anonymous contributors.
+-- James McKinna, Sergei Meshveliani, Eric Mertens, Darin Morrison,
+-- Guilhem Moulin, Shin-Cheng Mu, Ulf Norell, Noriyuki Ohkawa,
+-- Nicolas Pouillard, Andrés Sicard-Ramírez, Lex van der Stoep,
+-- Sandro Stucki, Milo Turner, Noam Zeilberger
+-- and other anonymous contributors.
 ------------------------------------------------------------------------
 
--- This version of the library has been tested using Agda 2.6.2.
+-- This version of the library has been tested using Agda 2.6.2.2.
```
Comment (MatthewDaggitt) [inline README.agda:22]: Again should be 2.6.3

File: README/WithIn.agda [hunk 6]
```diff
@@ -1,21 +1,20 @@
 ------------------------------------------------------------------------
 -- The Agda standard library
 --
--- Explaining how to use the inspect idiom and elaborating on the way
--- it is implemented in the standard library.
+-- Explaining how to use the `with ... in ...` idiom.
 ------------------------------------------------------------------------
```
Comment (MatthewDaggitt) [inline README/WithIn.agda:5]: The standard library is not the right place to be writing tutorials on language features. I think this file should be kept as is (i.e. no changes) but marked deprecated just like the `inspect` function itself.

File: src/Data/Fin/Properties.agda (hunk 2 above)
[the remark this answers is not in the document]
Comment (MatthewDaggitt) [reply src/Data/Fin/Properties.agda:699]: I definitely like the old version more. Using other lemmas rather than building it up from first principles via pattern matching seems more robust to me.

File: src/Data/Fin/Properties.agda [hunk 7]
```diff
@@ -562,10 +562,20 @@ splitAt-↑ˡ : ∀ m i n → splitAt m (i ↑ˡ n) ≡ inj₁ i
 splitAt-↑ˡ (suc m) zero    n = refl
 splitAt-↑ˡ (suc m) (suc i) n rewrite splitAt-↑ˡ m i n = refl
 
+splitAt⁻¹-↑ˡ : ∀ {m} {n} {i} {j} → splitAt m {n} i ≡ inj₁ j → j ↑ˡ n ≡ i
+splitAt⁻¹-↑ˡ {suc m} {n} {0F} {.0F} refl = refl
+splitAt⁻¹-↑ˡ {suc m} {n} {suc i} {j} eq with splitAt m i in EQ
```
Comment (MatthewDaggitt) [inline src/Data/Fin/Properties.agda:567]: Non type-level variables (i.e. `EQ`) should not be capitalised.

File: src/Relation/Binary/PropositionalEquality.agda [hunk 8]
```diff
@@ -120,3 +102,36 @@ module _ (_≟_ : DecidableEquality A) {x y : A} where
...
+  field eq : f x ≡ y
+
+inspect : ∀ {A : Set a} {B : A → Set b}
+          (f : (x : A) → B x) (x : A) → Reveal f · x is f x
+inspect f x = [ refl ]
+
+{-# WARNING_ON_USAGE Reveal_·_is_
+"Warning: Reveal_·_is_ was deprecated in v2.0.
+Please use new `with ... in` syntax described at https://agda.readthedocs.io/en/v2.6.2/language/with-abstraction.html#with-abstraction-equality instead.
+See also README.WithIn"
```
Comment (MatthewDaggitt) [inline src/Relation/Binary/PropositionalEquality.agda:130]: Remember to revert this reference.

**Review by MatthewDaggitt — COMMENTED** [review]
Otherwise looks great. Glad the `with ... in` syntax is now powerful enough to get rid of all uses of it.

File: src/Data/Fin/Properties.agda (hunk 2 above)
[the remark this answers is not in the document]
Comment (jamesmckinna) [reply src/Data/Fin/Properties.agda:699]: Ok, will clean up later today.

File: CHANGELOG.md (hunk 3 above)
Comment (jamesmckinna) [reply CHANGELOG.md:4]: Yes, that is the case now... some of these PRs haven't kept up with the transition to v2.6.3

File: CHANGELOG.md (hunk 4 above)
Comment (jamesmckinna) [reply CHANGELOG.md:1307]: There's a `README.WithIn` now?

File: README/WithIn.agda (hunk 6 above)
Comment (jamesmckinna) [reply README/WithIn.agda:5]: Ah... `inspect` as a *definition* merited a a `README`, but `with ... in` as a language feature does not? Fair enough, I suppose. But as each file showed/shows, 'simple' (short!) examples are not so easy to come up with.

File: src/Data/Fin/Properties.agda (hunk 7 above)
Comment (jamesmckinna) [reply src/Data/Fin/Properties.agda:567]: Will do. A failure of imagination when inventing identifiers. Thanks for the nudge!

File: src/Relation/Binary/PropositionalEquality.agda (hunk 8 above)
Comment (jamesmckinna) [reply src/Relation/Binary/PropositionalEquality.agda:130]: Yes!

File: CHANGELOG.md (hunk 4 above)
Comment (jamesmckinna) [reply CHANGELOG.md:1307]: Added the link... but I think a 'simple' example isn't easily expressible in the `CHANGELOG`. Suggestions?

File: README/WithIn.agda (hunk 6 above)
Comment (jamesmckinna) [reply README/WithIn.agda:5]: When deprecating `README.Inspect`, is it necessary to deprecate each of the definitions in the module, or only the module (name) itself at the top? I presume the latter, as nothing can (or should!)  `import README.Inspect`, except `README.agda` itself. But will the deprecation warning then trigger a failing `make test`?

Comment (jamesmckinna) [reply README/WithIn.agda]: I have removed the import of `README.Inspect` from `README`. Let me know if this is a problem!

**Comment by MatthewDaggitt** [comment]
Thanks for finally getting this over the line!

**Comment by jamesmckinna** [comment]
Eeek! [This counterexample](https://github.com/agda/agda/issues/5833) is a problem...
